US08669266B2
(i) (S)-3-(1-Benzyl-1H-[1,2,3]triazol-4-yl)-2-tert-butoxycarbonylamino-propionic acid
A mixture of 430 mg Boc-L-propargylglycine, 269 mg benzyl azide, 36 mg copper(II)acetate and 80 mg sodium ascorbate in 15 ml water/t-BuOH (1:1) was stirred for 12 h at RT. The reaction mixture was diluted with ethyl acetate, washed with brine (2×) and the aqueous phase reextracted with ethyl acetate. The crude product obtained after evaporation of the solvent was pure enough for the subsequent transformation. Yield: 855 mg.

reactant | Boc-L-propargylglycine | 430 mg | CC(C)(C)OC(=O)N[C@@H](CC#C)C(=O)O | C10H15NO4
reactant | benzyl azide | 269 mg | C(C1=CC=CC=C1)N=[N+]=[N-] | C7H7N3
reactant | sodium ascorbate | 80 mg | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | water t-BuOH | 15 ml | O.CC(C)(C)O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper(II)acetate | 36 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | (S)-3-(1-Benzyl-1H-[1,2,3]triazol-4-yl)-2-tert-butoxycarbonylamino-propionic acid | C(C1=CC=CC=C1)N1N=NC(=C1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C17H22N4O4
